US07842685B2
To a solution of 2-(1-benzhydryl-azetidin-3-yl)-malonic acid diethyl ester (20.2 g, 0.053 mol) in 159 mL of ethyl acetate, palladium hydroxide (0.741 g, 5.3 mmol) was added under nitrogen, followed by Boc2O (15.0 mL, 68.8 mmol). The reaction was performed under hydrogen atmosphere. The reaction mixture was passed through celite, washed with ethyl acetate, concentrated, purified by column chromatography (neutral alumina) using 4% ethyl acetate/hexanes as eluent to give 2-(1-tert-butoxycarbonyl-azetidin-3-yl)-malonic acid diethyl ester. 1H-NMR (400 MHz, CDCl3,), δ ppm 4.23-4.17 (m, 4H), 4.16-4.06 (m, 2H), 3.73-3.69 (m, 2H), 3.62-3.59 (m, 1H), 3.12-3.10 (m, 1H), 1.42 (s, 9H), 1.28-1.24 (m, 6H).

reactant | 2-(1-benzhydryl-azetidin-3-yl)-malonic acid diethyl ester | 0.053 mol, 20.2 g | C(C)OC(C(C(=O)OCC)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H27NO4
reactant | Boc2O | 68.8 mmol, 15.0 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 159 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide | 5.3 mmol, 0.741 g | [OH-].[Pd+2].[OH-]
product | 2-(1-tert-butoxycarbonyl-azetidin-3-yl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C1CN(C1)C(=O)OC(C)(C)C)=O | C15H25NO6
